US09421205B2
(e) tert-Butyl 4-(4-((4-(2-(2-methoxy-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperazine-1-carboxylate (I6)
tert-Butyl 4-(4-((4-((2-(2-methoxy-2-oxoethyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperazine-1-carboxylate (I5) (0.250 g, 0.420 mmol) was dissolved in EtOAc (8 mL) and absolute ethanol (10 mL) under an atmosphere of nitrogen. 10% Pd/C (0.200 g) in EtOAc (4 mL) was added to the solution and the atmosphere was changed to hydrogen gas (balloon). The reaction was sealed with a balloon and stirred at room temperature for 18 hours. The catalyst was removed by filtration through Celite, which was washed with EtOAc (7×10 mL). The solvent was removed in vacuo to give the title compound (I6) (0.211 g, 84% yield) as a yellow solid. LCMS Method C: rt 6.78 min; m/z 600.3 [M+H]+.

reactant | tert-Butyl 4-(4-((4-((2-(2-methoxy-2-oxoethyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperazine-1-carboxylate | 0.420 mmol, 0.250 g | COC(CC1=C(C=CC=C1)C#CC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)=O | C31H32F3N5O4
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 8 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 4 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.200 g | [Pd] | Pd
product | tert-Butyl 4-(4-((4-(2-(2-methoxy-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperazine-1-carboxylate | 84% yield | COC(CC1=C(CCC2=NC(=NC=C2C(F)(F)F)NC2=CC=C(C=C2)N2CCN(CC2)C(=O)OC(C)(C)C)C=CC=C1)=O | C31H36F3N5O4
